US05773449
7-Methoxyquinoline-4(1H)-thione (compound 1)
4-Hydroxy-7-methoxyquinoline (2.3 g, 13 mmol) dissolved in pyridine (30 ml) was added with phosphorus pentasulfide (2.9 g, 13 mmol) and refluxed for an hour. The reaction mixture was allowed to cool to room temperature and the solvent was removed under reduced pressure. The residues were added with water (80 ml) and stood at 0° C. for about 30 minutes. The resulting precipitates were collected by filtration, washed with water and recrystallized from mixed solvent (about 60 ml) of ethanol with water (2 : 1) to obtain 1.7 g (68%) of the titled orange compound.

reactant | 4-Hydroxy-7-methoxyquinoline | 13 mmol, 2.3 g | OC1=CC=NC2=CC(=CC=C12)OC | C10H9NO2
reactant | phosphorus pentasulfide | 13 mmol, 2.9 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 7-Methoxyquinoline-4(1H)-thione | COC1=CC=C2C(C=CNC2=C1)=S | C10H9NOS
